US05935952
In 150 ml of methylene chloride was dissolved 30.0 g of ethyl 4-bromo-2,5-difluoro-3-methylbenzoylacetate, and 19.1 g of acetic anhydride and 22.3 g of N,N-dimethylformamide dimethyl acetal were added to the solution, after which the resulting mixture was stirred at room temperature for one hour. Thereafter, the solvent was removed by distillation under reduced pressure. The residue obtained was dissolved in 90 ml of ethanol and 5.90 g of cyclopropylamine was added thereto, after which the resulting mixture was stirred at room temperature for 30 minutes. The solvent was then removed by distillation under reduced pressure. To the residue obtained was added n-hexane and the crystals formed were collected by filtration, to obtain 35.7 g of colorless, crystalline ethyl 2-(4-bromo-2,5-difluoro-3-methylbenzoyl)-3-cyclopropylaminoacrylate.

reactant | ethyl 4-bromo-2,5-difluoro-3-methylbenzoylacetate | 30.0 g | BrC1=C(C(=C(C(=O)CC(=O)OCC)C=C1F)F)C | C12H11BrF2O3
reactant | acetic anhydride | 19.1 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | N,N-dimethylformamide dimethyl acetal | 22.3 g | COC(N(C)C)OC | C5H13NO2
reactant | cyclopropylamine | 5.90 g | C1(CC1)N | C3H7N
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | 90 ml | C(C)O | C2H6O
solvent | n-hexane | CCCCCC | C6H14
product | ethyl 2-(4-bromo-2,5-difluoro-3-methylbenzoyl)-3-cyclopropylaminoacrylate | BrC1=C(C(=C(C(=O)C(C(=O)OCC)=CNC2CC2)C=C1F)F)C | C16H16BrF2NO3
